US05861533
112.2 of acetic acid (96%) were added dropwise over 2 hours to a stirred mixture of 216.0 g (1 mol) of diisobutyl malonate, 250 g of 1,4-dioxane, 25.6 g of deionized water ad 80 g (1.15 mol) of sodium nitrite (technical grade), maintained at from 35° to 40° C. The mixture was allowed to continue reacting for 2 hours at 50° C., then 35.0 g of anhydrous sodium acetate and 200 g of methyl tert-butyl ether were added. After cooling of the mixture, the precipitated coarsely-crystalline sodium acetate trihydrate was filtered off and washed using methyl tert-butyl ether. Removal of the low-boilers by distillation at 60° C. under water-pump vacuum gave 258.7 g (88.6% of theory) of residue comprising primarily diisobutyl hydroxyiminomalonate. The content of unconverted diisobutyl malonate was 0.4 FID aea percent.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | diisobutyl malonate | 1 mol, 216.0 g | C(CC(=O)OCC(C)C)(=O)OCC(C)C | C11H20O4
reactant | sodium nitrite | 1.15 mol, 80 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 35.0 g | C(C)(=O)[O-].[Na+]
solvent | methyl tert-butyl ether | 200 g | C(C)(C)(C)OC | C5H12O
solvent | water | 25.6 g | O | H2O
solvent | 1,4-dioxane | 250 g | O1CCOCC1 | C4H8O2
product | diisobutyl hydroxyiminomalonate | ON=C(C(=O)OCC(C)C)C(=O)OCC(C)C | C11H19NO5
